US05753664
6-Ethyl-1-[4-(4-hydroxybenzoyl)benzyl]-7-methyl-imidazo[1,2-a]pyrimidin-5(1H)-one
A solution of 6-ethyl-7-methylimidazo[1,2-a]-pyrimidin-5(1H)-one (3.93 g), 4-(4-t-butyldimethylsilyloxybenzoyl)benzyl bromide (14.79 g) and potassium carbonate (5.97 g) in DMF (25 ml)-dimethyl sulfoxide (25 ml) was stirred at room temperature for 20 hours. This reaction mixture was concentrated and the residue was extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (dichloromethane: methanol =9:1) and recrystallized from ethanol-ethyl acetate to provide the title compound as colorless solid (909 mg).

reactant | 6-ethyl-7-methylimidazo[1,2-a]-pyrimidin-5(1H)-one | 3.93 g | C(C)C1=C(N=C2N(C1=O)C=CN2)C | C9H11N3O
reactant | 4-(4-t-butyldimethylsilyloxybenzoyl)benzyl bromide | 14.79 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C20H25BrO2Si
reactant | potassium carbonate | 5.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 6-Ethyl-1-[4-(4-hydroxybenzoyl)benzyl]-7-methyl-imidazo[1,2-a]pyrimidin-5(1H)-one | 909 mg | C(C)C1=C(N=C2N(C1=O)C=CN2CC2=CC=C(C=C2)C(C2=CC=C(C=C2)O)=O)C | C23H21N3O3
